US08614201B2
Intermediate 1: [4-Oxo-4-(4-trifluoromethyl-phenyl)but-2-ynyl]-carbamic acid tert-butyl ester
To a solution of N-boc-propargylamine (5.0 g, 32.2 mmol) in THF (100 mL) was added 4-trifluoromethylbenzoyl chloride (4.3 mL, 29.3 mmol), PdCl2(PPh3)2 (0.18 g, 0.264 mmol), and CuI (0.17 g, 0.879 mmol). The mixture was allowed to stir for 5 min at rt, at which time freshly distilled triethylamine (5.1 mL, 36.6 mmol) was added. After 30 min the resulting mixture was filtered, concentrated, and purified by flash column chromatography, or FCC, to afford the title compound as a colorless solid (3.6 g, 35%). MS (ESI): mass calcd. for C16H16F3NO3, 327.1; m/z found, 328.2 [M+H]+. 1H NMR (500 MHz, (DMSO) δ 8.26 (d, J=8.04 Hz, 2H), 7.96 (d, J=8.12 Hz, 2H), 7.62-7.54 (m, 1H), 4.14 (d, J=5.53 Hz, 2H), 1.42 (s, 9H).

reactant | N-boc-propargylamine | 32.2 mmol, 5.0 g | C(=O)(OC(C)(C)C)NCC#C | C8H13NO2
reactant | 4-trifluoromethylbenzoyl chloride | 29.3 mmol, 4.3 mL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 36.6 mmol, 5.1 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 0.264 mmol, 0.18 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.879 mmol, 0.17 g | [Cu]I
product | [4-Oxo-4-(4-trifluoromethyl-phenyl)but-2-ynyl]-carbamic acid tert-butyl ester | 3.6 g, 35% | C(C)(C)(C)OC(NCC#CC(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C16H16F3NO3
